US05166214
Part B. To a solution of lithium aluminum hydride (0.96 g, 0.025 mol) in dry tetrahydrofuran (30 mL) was added, dropwise, a solution of 8-(4,5-diphenyl-1H-imidazole-2-ylthio)-N-heptyloctanamide (2.82 g, 0.0057 mol) in tetrahydrofuran (15 mL) and the reaction mixture was stirred at reflux for 18 hours. The reaction mixture was cooled to 0°, quenched by the slow and careful sequential addition of water (0.96 mL), 15% sodium hydroxide (2.88 mL), and water (2.88 mL), and then stirred at 0° for 30 minutes. The solution was then dried over magnesium sulfate and concentrated, and the residue was chromatographed with 1:1 hexane:ethyl acetate and then with a gradient of 1:0 to 3:1 to 1:1 ethyl acetate-methanol to give 8-(4,5-diphenyl-1H-imidazol-2-ylthio)-N-heptyl-1-octanamine (1.07 g, 0.0022 mol) as a white solid, mp 87°-89°. 1H NMR (CDCl3) δ7.6- 7.2(m,11H), 3.1(t,2H,J=7Hz), 2.7-2.5(m,2H), 1.8-1.1(m,25H), 0.9(t,3H,J=8Hz).

reactant | lithium aluminum hydride | 0.025 mol, 0.96 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 8-(4,5-diphenyl-1H-imidazole-2-ylthio)-N-heptyloctanamide | 0.0057 mol, 2.82 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCCCCC(=O)NCCCCCCC | C30H41N3OS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 8-(4,5-diphenyl-1H-imidazol-2-ylthio)-N-heptyl-1-octanamine | 0.0022 mol, 1.07 g | C1(=CC=CC=C1)C=1N=C(NC1C1=CC=CC=C1)SCCCCCCCCNCCCCCCC | C30H43N3S
